US08198456B2
To a suspension of 2-iodo-4-methyl-5-pyridinamine (5 g, 21.4 mmol) in toluene (340 mL) was added HOAc (19 mL), and the mixture was stirred vigorously until it became clear. Then KOAc (15.78 g, 160.23 mmol) was added. To this white suspension, isoamyl nitrite (3.16 mL, 23.5 mmol) was added dropwise at rt, and the resulting mixture was stirred for 2 days. The reaction mixture was diluted with EtOAc and treated with NaHCO3 (sat.) to pH 10. The reaction mixture was extracted with EtOAc, washed with brine, dried, and concentrated in vacuo to afford the crude product. Purification by flash chromatography afforded 5-iodo-1H-pyrazolo[3,4-c]pyridine (4.37 g, 83.5%).

reactant | 2-iodo-4-methyl-5-pyridinamine | 21.4 mmol, 5 g | IC1=NC=C(C(=C1)C)N | C6H7IN2
reactant | KOAc | 160.23 mmol, 15.78 g | CC(=O)[O-].[K+]
reactant | isoamyl nitrite | 23.5 mmol, 3.16 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 340 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HOAc | 19 mL | CC(=O)O | C2H4O2
product | 5-iodo-1H-pyrazolo[3,4-c]pyridine | 4.37 g, 83.5% | IC=1C=C2C(=CN1)NN=C2 | C6H4IN3
